US04937244
(e) 1-Isopropyl-3,3,5,5-tetramethylpiperazine
3.9 g (0.103 mol) of lithiumaluminium hydride are introduced into 100 ml of anhydrous tetrahydrofuran under a nitrogen atmosphere, while stirring and cooling. A solution of 19.8 g (0.1 mol) of 1-isopropyl-3,3,5,5-tetramethyl-2-piperazinone (obtainable, for example, in accordance with Synthesis 1981, page 40, or J. Organ. Chem., 45 (1980), 754-59) in 75 ml of anhydrous tetrahydrofuran is added dropwise at room temperature, whereupon the reaction temperature rises to 6020 C. The mixture is then stirred overnight at room temperature. After dropwise addition of about 10 ml of water, the mixture is subsequently stirred for 2 hours and the precipitate is then filtered off with suction. The filtrate is dried over potassium carbonate and concentrated in vacuo and the crude product which remains as a colourless oil is further processed without additional purification.

reactant | lithiumaluminium hydride | 0.103 mol, 3.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-isopropyl-3,3,5,5-tetramethyl-2-piperazinone | 0.1 mol, 19.8 g | C(C)(C)N1C(C(NC(C1)(C)C)(C)C)=O | C11H22N2O
reactant | water | about 10 ml | O | H2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Isopropyl-3,3,5,5-tetramethylpiperazine | C(C)(C)N1CC(NC(C1)(C)C)(C)C | C11H24N2
